US07053060B2
To a solution of 2-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetamide (0.38 g) in methanol (5 mL) was added 10% palladium-carbon powder (0.075 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hours. An insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=30/1–20/1) to give 2-[4-(4-ethylbenzyl)-3-hydroxyphenyl]acetamide (0.16 g).

reactant | 2-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]acetamide | 0.38 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1CC1=CC=C(C=C1)CC)CC(=O)N | C24H25NO2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 0.075 g | [C].[Pd]
product | 2-[4-(4-ethylbenzyl)-3-hydroxyphenyl]acetamide | 0.16 g | C(C)C1=CC=C(CC2=C(C=C(C=C2)CC(=O)N)O)C=C1 | C17H19NO2
